
*CONDUCTION NMOS W1

.INCLUDE ../../model/32nm_HP.pm
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

*Definizione dei parametri
.PARAM Lmin=22n
.PARAM Wmin=22n
.PARAM Ldiff=44n

.TEMP 85

.PARAM N=2

*Descrizione della cella
Mn drain gate source body nmos W={Wmin*N} L={Lmin} AS={Wmin*N*Ldiff} AD={Wmin*N*Ldiff} PS={2*(Ldiff+Wmin*N)} PD={2*(Ldiff+Wmin*N)}
Vd 	drain	0		0
Vg 	gate	alim		0
Vs 	source	0		0
Vb 	body	0		0
Vdd 	alim	0		0

*Definizione del tipo di analisi
.CONTROL
let voltage=-0.05
let Vddbasic=1.0

while voltage le Vddbasic
  let voltage = voltage + 0.05
  alter Vdd = voltage
  dc TEMP 85 86 10
  print abs(V(alim)) V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb)

end

.ENDC
.END

